US07553969B1
To a solution of 2-(benzyloxycarbonyl)methylamino-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-methanesulfonylmethylethylamide (0.65 g, 1.22 mmol) in methanol (10 ml), 10% palladium carbon (130 mg) was added and stirred in a hydrogen atmosphere at room temperature for 30 min. After filtration, the filtrate was concentrated under reduced pressure. To a solution of the thus obtained residue, Z-Phe(4-F)-OH (465 mg, 1.47 mmol) and CMPI (375 mg, 1.47 mmol) in THF (15 ml), TEA (0.41 ml, 2.93 mmol) was added under cooling with ice and stirred at room temperature overnight. The reaction mixture was mixed with water and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent:n-hexane:ethyl acetate=1:1) to give 2-((2-benzyloxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-methanesulfonylmethylethylamide (484 mg, 57%). A mixture of the above compound (424 mg, 0.609 mmol) and 10% palladium carbon (43 mg) in methanol (16 ml) was stirred at room temperature in a hydrogen atmosphere for 2 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure; the thus obtained residue was subjected to silica gel column chromatography (developing solvent: methylene chloride:methanol=15:1), giving the titled compound (239 mg, 70%).

reactant | 2-(benzyloxycarbonyl)methylamino-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-methanesulfonylmethylethylamide | 1.22 mmol, 0.65 g | C(C)(C)(C)C=1C=C(C=CC1O)CC(CS(=O)(=O)C)NC(C(C(C)C)NCC(=O)OCC1=CC=CC=C1)=O | C28H40N2O6S
reactant | hydrogen | [H][H] | H2
reactant | Z-Phe(4-F)-OH | 1.47 mmol, 465 mg | N([C@@H](CC1=CC=C(C=C1)F)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H16FNO4
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | palladium carbon | 130 mg | [C].[Pd]
product | 2-((2-benzyloxycarbonylamino-3-(4-fluorophenyl)propionyl)-N-methylamino)-3-methylbutyric acid 2-(3-t-butyl-4-hydroxyphenyl)-1-methanesulfonylmethylethylamide | 484 mg, 57% | C(C)(C)(C)C=1C=C(C=CC1O)CC(CS(=O)(=O)C)NC(C(C(C)C)N(C)C(C(CC1=CC=C(C=C1)F)NC(=O)OCC1=CC=CC=C1)=O)=O | C37H48FN3O7S
